US04447260
To a solution of 1-methylcyclopropanecarboxylic acid (1.8 g) in pyridine (50 ml), a solution of 3-chloro-4-(2,2,2-trifluoroethoxy)aniline (2.3 g) in pyridine (10 ml) cooled with ice was dropwise added while stirring. After stirring at room temperature for 10 hours, the reaction mixture was admixed with water and extracted with ether. The extract was washed with 1 N hydrochloric acid, sodium hydrogen carbonate solution and saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated. The crude crystals (2.8 g) were recrystallized from ethanol to give N-(3-chloro-4-(2,2,2-trifluoroethoxy)phenyl)-1-methylcyclopropanecarboxamide (2.6 g). M.P., 95°-96° C.

reactant | 1-methylcyclopropanecarboxylic acid | 1.8 g | CC1(CC1)C(=O)O | C5H8O2
reactant | 3-chloro-4-(2,2,2-trifluoroethoxy)aniline | 2.3 g | ClC=1C=C(N)C=CC1OCC(F)(F)F | C8H7ClF3NO
reactant | water | O | H2O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-(3-chloro-4-(2,2,2-trifluoroethoxy)phenyl)-1-methylcyclopropanecarboxamide | 2.6 g | ClC=1C=C(C=CC1OCC(F)(F)F)NC(=O)C1(CC1)C | C13H13ClF3NO2
